US06458780B1
b) 7-Methanesulfonyl-3-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
A 1.6 N n-butyllithium/n-hexane solution (0.7 ml) was added to a solution of 202 mg of 7-methanesulfonylimidazo[5,1-b]thiazole in 20 ml of dry THF in an argon atmosphere at −70° C. The mixture was stirred at the same temperature for 30 min. Tri-n-butylstannyl chloride (0.3 ml) was added thereto. A saturated aqueous ammonium chloride solution was added to the reaction mixture. Ethyl acetate was then added thereto. The mixture was washed with water and saturated brine in that order. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1) to give 110 mg of the title compound.

reactant | n-butyllithium n-hexane | 1.6 N, 0.7 ml | C(CCC)[Li].CCCCCC
reactant | 7-methanesulfonylimidazo[5,1-b]thiazole | 202 mg | CS(=O)(=O)C=1N=CN2C1SC=C2 | C6H6N2O2S2
reactant | Tri-n-butylstannyl chloride | 0.3 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Methanesulfonyl-3-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 110 mg | CS(=O)(=O)C=1N=CN2C1SC=C2[Sn](CCCC)(CCCC)CCCC | InChI=1S/C6H5N2O2S2.3C4H9.Sn/c1-12(9,10)5-6-8(4-7-5)2-3-11-6;3*1-3-4-2;/h3-4H,1H3;3*1,3-4H2,2H3;
